US08871753B2
Step A: tert-Butyl {6-[(3-aminophenyl)ethynyl]pyridin-2-yl}carbamate
tert-Butyl (6-iodopyridin-2-yl)carbamate (1.50 g, 4.68 mmol), copper(I) iodide (68.0 mg, 0.36 mmol) and bis(triphenylphosphine)palladium(II) chloride (100 mg, 0.2 mmol) were stirred in tetrahydrofuran (14 mL) with triethylamine (0.70 mL, 5.0 mmol) under N2 at rt. 3-Ethynylaniline (0.47 mL, 4.5 mmol) was added and the mixture was heated at 60° C. overnight. The mixture was filtered, washed with EtOAc and concentrated under vacuum to give the desired product as a brown solid (1.23 g, 89%). LCMS for C14H12N3O2 ([M-(tBu)+H]+H)+: m/z=254.1.

reactant | tert-Butyl (6-iodopyridin-2-yl)carbamate | 4.68 mmol, 1.50 g | IC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C10H13IN2O2
reactant | triethylamine | 5.0 mmol, 0.70 mL | C(C)N(CC)CC | C6H15N
reactant | 3-Ethynylaniline | 4.5 mmol, 0.47 mL | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 0.36 mmol, 68.0 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.2 mmol, 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl {6-[(3-aminophenyl)ethynyl]pyridin-2-yl}carbamate | 1.23 g, 89% | NC=1C=C(C=CC1)C#CC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C18H19N3O2
